US07544688B2
A: [2-Chloro-9-(2-chloro-ethyl)-purin-6-yl]-cyclohexyl-amine
2-Chloro-6-cyclohexylamino-purine (4 mmol), 1-bromo-2-chloroethane (8 mmol) and potassium carbonate (8 mmol, water free) in DMF (20 ml) are heated up to 45° C. and the mixture is stirred at this temperature for 5 hours. After cooling to RT the mixture is poured on water and extracted 3 times with ethyl acetate. The combined organic phases are washed twice with brine and the extract is dried over sodium sulfate and evaporated. The residue is dissolved in diethylether and pentane is added. The solid material formed is filtered of and dried (vacuum). A white powder with mp. 150-152° C., Rf=0.17 (CH2Cl2/MeOH=20:1) is obtained.

reactant | 2-Chloro-6-cyclohexylamino-purine | 4 mmol | ClC1=NC(=C2NC=NC2=N1)NC1CCCCC1 | C11H14ClN5
reactant | 1-bromo-2-chloroethane | 8 mmol | BrCCCl | C2H4BrCl
reactant | potassium carbonate | 8 mmol | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | [2-Chloro-9-(2-chloro-ethyl)-purin-6-yl]-cyclohexyl-amine | ClC1=NC(=C2N=CN(C2=N1)CCCl)NC1CCCCC1 | C13H17Cl2N5
